data/mechanisms/records/IMS4-EQ4.29.json
{"mechanism_id": "IMS4-EQ4.29", "species": [{"species_id": "protonated_ephedrine", "mapped_smiles": "[c:1]1([cH:2][cH:3][cH:4][cH:5][cH:6]1)[CH:7]([OH:8])[CH:9]([CH3:10])[NH2+:11][CH3:12]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "hydroxy_secondary_carbocation_mz135", "mapped_smiles": "[c:1]1([cH:2][cH:3][cH:4][cH:5][cH:6]1)[CH:7]([OH:8])[CH+:9][CH3:10]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methylamine", "mapped_smiles": "[NH2:11][CH3:12]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_ephedrine"]}, {"state_id": "state_products", "species_ids": ["hydroxy_secondary_carbocation_mz135", "methylamine"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [9, 11]}, "target": {"type": "atom", "atom_maps": [11]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 67, "equation": "4.29", "figure": "4.5", "panel": null, "section": "4.7 Charge-site initiation (inductive cleavage, i)"}, "confidence": 0.85, "curator_note": "Charge-site-initiated (inductive, 'i') cleavage of the protonated ephedrine [M+H]+ (m/z 166) drawn in Eq. 4.29: C6H5-CHOH-CHCH3-N(+)H2CH3 -> C6H5-CHOH-(+)CHCH3 + H2N-CH3. Book draws 1 arc; move <1> is drawn -- a single full (double-barbed, two-electron) curved arrow from the C9-N11 sigma bond onto N11. No implicit homolysis hook is required: inductive cleavage is heterolytic, so this one two-electron arrow fully balances the flow -- the C-N bonding pair becomes an N lone pair (N+ -> neutral CH3NH2) and the carbon C9 that loses the bond becomes the m/z 135 carbocation. The C9 cation the book draws is the localized secondary cation (stabilized by the beta-hydroxyl / homoconjugation, not itself benzylic); Kekule/aromatic form of the intact phenyl ring is retained unchanged."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization (CH4 reagent gas)", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 166.1226, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_135", "species_id": "hydroxy_secondary_carbocation_mz135", "step_id": "step_inductive_cleavage", "observed_mz": 135.0804, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
